US07618970B2
3-Ethoxy-N-[(1R, 3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentyl]tetrahydro-2H-pyran-4-amine
To a solution of (1R,3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentanamine dihydrochloride (200 mg, 0.438 mmol), 3-ethoxytetrahydro-4H-pyran-4-one (130 mg, 0.88 mmol) and triethylamine (0.18 mL, 1.3 mmol) in methylene chloride (10 mL) was added sodium triacetoxyborohydride (180 mg, 0.88 mmol). After being stirred at room temperature overnight, the reaction mixture was diluted with EtOAc and washed with saturated Na2CO3. The aqueous layer was extracted with EtOAc three times. The combined organic layers were dried (MgSO4), concentrated and purified on silica gel (EtOAc to 1% Et3N/EtOAc to 5% Et3N/EtOAc) affording 230 mg of product. The product was separated by chiral HPLC to give two major isomers: isomer 1 (110 mg) and isomer 2 (77 mg). MS calculated for C27H40F3N3O3: (M+H) 512; found 512.2.

reactant | (1R,3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentanamine dihydrochloride | 0.438 mmol, 200 mg | Cl.Cl.C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F
reactant | 3-ethoxytetrahydro-4H-pyran-4-one | 0.88 mmol, 130 mg | C(C)OC1COCCC1=O | C7H12O3
reactant | triethylamine | 1.3 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.88 mmol, 180 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Ethoxy-N-[(1R, 3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentyl]tetrahydro-2H-pyran-4-amine | 230 mg | C(C)OC1COCCC1N[C@H]1C[C@](CC1)(C(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)C(C)C | C27H40F3N3O3
